US07851473B2
Bromine (5.18 g, 32.3 mmol) was slowly added dropwise to a solution of 1-[2-chlorophenyl]ethanone (5.00 g, 32.3 mmol) in diethyl ether (100 ml), and the mixture was stirred at room temperature for 4 hours. The reaction mixture was distilled off under reduced pressure to give 2-bromo-1-(2-chlorophenyl)ethanone as an oil quantitatively.

reactant | Bromine | 32.3 mmol, 5.18 g | BrBr | Br2
reactant | 1-[2-chlorophenyl]ethanone | 32.3 mmol, 5.00 g | ClC1=C(C=CC=C1)C(C)=O | C8H7ClO
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-bromo-1-(2-chlorophenyl)ethanone | BrCC(=O)C1=C(C=CC=C1)Cl | C8H6BrClO
